US06300368B1
2-(2,6-Dimethyl-4-nitrophenoxy)ethyl p-toluenesulfonate (10.0 g) solution in dioxane (15 ml) was added with isopropylamine (10 ml) and the mixture was stirred for 3 hours in an autoclave at 80° C. After being concentrated , the reaction mixture was dissolved into ethyl acetate (50 ml) and extracted with 1N HCl (150 ml). Resultant aqueous layer was added with 1N sodium hydroxide (200 ml) and extracted with chloroform (200 ml). After being dehydrated with anhydrous magnesium sulfate (20 g), chloroform layer was concentrated under vacuum to dryness to obtain N-isopropyl-[2-(2,6-dimethyl-4-nitrophenoxy)]ethylamine (5.5 g) as yellowish solid.

reactant | 2-(2,6-Dimethyl-4-nitrophenoxy)ethyl p-toluenesulfonate | 10.0 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOC1=C(C=C(C=C1C)[N+](=O)[O-])C)C | C17H19NO6S
reactant | isopropylamine | 10 ml | C(C)(C)N | C3H9N
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | N-isopropyl-[2-(2,6-dimethyl-4-nitrophenoxy)]ethylamine | 5.5 g | C(C)(C)NCCOC1=C(C=C(C=C1C)[N+](=O)[O-])C | C13H20N2O3
